US06107307
3-(indol-2-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene
A solution of 3-hydroxy-3-(1-phenylsulfonylindol-2-yl)-8-methyl-8-azabicyclo[3.2.1]octane and trifluoroacetic acid in dichloromethane is stirred at room temperature until the dehydration is complete. The reaction mixture is concentrated under reduced pressure and the residue partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic phase is separated, washed well with water, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure to provide the desired compound.

reactant | 3-hydroxy-3-(1-phenylsulfonylindol-2-yl)-8-methyl-8-azabicyclo[3.2.1]octane | OC1(CC2CCC(C1)N2C)C=2N(C1=CC=CC=C1C2)S(=O)(=O)C2=CC=CC=C2 | C22H24N2O3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(indol-2-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | N1C(=CC2=CC=CC=C12)C1=CC2CCC(C1)N2C | C16H18N2
